US04501741
In yet a further method for preparing compounds of the invention wherein R2 is methyl, methoxy, or chloro, a 7-aminocephalosporanic acid ester is acylated with the desired benzothienylglycine or dihydrobenzothienyl glycine and the product is reacted with a thiol such as a C1 -C4 alkyl mercaptan or with thiourea to form, the 3-alkylthio or isothiouronium derivative, respectively, by nucleophilic displacement of the 3-acetoxy group. The thio derivative is then subjected to reductive displacement with Raney nickel and hydrogen or with zinc and formic acid in DMF to provide the 3-exomethylenecepham compound. The latter is then isomerized to the 3-methyl-3-cephem as described hereinabove. The 3-exomethylenecepham can be reacted with ozone in the cold to provide the 3-hydroxy-3-cephem and the latter converted to the 3-halo or 3-methoxy compound as described hereinabove. The above-described conversion of the 3-acetoxymethyl compound to the 3-exomethylenecepham is carried out according to the methods described by Chauvette in U.S. Pat. No. 3,932,393.

reactant | 3-methyl-3-cephem | CC=1CS[C@H]2N(C1)C(C2)=O | C7H9NOS
reactant | ozone | O=[O+][O-] | O3
product | 3-hydroxy-3-cephem | OC=1CS[C@H]2N(C1)C(C2)=O | C6H7NO2S
